US08183245B2
To a stirred solution of 1-(phenylsulfonyl)-5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine (0.588 g, 1.81 mmol) in dichloromethane (9 mL) was added di-tert-butyl dicarbonate (0.396 g, 1.81 mmol), triethylamine (0.51 mL, 3.63 mmol), and 4-dimethylaminopyridine (0.221 g, 1.81 mmol). The reaction was stirred at room temperature for 1 h. The reaction mixture was diluted with dichloromethane (50 mL) and washed with 10% aqueous citric acid (50 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (EtOAc/Hexanes gradient) to afford tert-butyl 4-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-1H-pyrazole-1-carboxylate as a white solid. LRMS (ESI) calculated for C21H20N4O2S [M+H]+, 425.1; found 425.0.

reactant | 1-(phenylsulfonyl)-5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 1.81 mmol, 0.588 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C=2C=NNC2 | C16H12N4O2S
reactant | di-tert-butyl dicarbonate | 1.81 mmol, 0.396 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 3.63 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.81 mmol, 0.221 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl 4-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-1H-pyrazole-1-carboxylate | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C=2C=NN(C2)C(=O)OC(C)(C)C | C21H20N4O4S
